US07919506B2
N-(2-(1-Cycloheptyl-1-methoxyethyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
This compound was prepared by an analogous series of reactions to that used for the preparation of N-(2-(1-cyclopentyl-2-methoxypropan-2-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine from 2-((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazole-5-yl)amino)methyl)-4-(trifluoromethyl)benzonitrile by the addition of cycloheptylmagnesium bromide followed by methylmagnesium bromide then alkylation with methyl iodide LC-MS calc 637.5, found 606 (M-OCH3).

reactant | N-(2-(1-cyclopentyl-2-methoxypropan-2-yl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | C1(CCCC1)CC(C)(OC)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C28H30F9N5O
reactant | 4-(trifluoromethyl)benzonitrile | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | cycloheptylmagnesium bromide | C1(CCCCCC1)[Mg]Br
reactant | methylmagnesium bromide | C[Mg]Br
reactant | methyl iodide | CI | CH3I
product | N-(2-(1-Cycloheptyl-1-methoxyethyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | C1(CCCCCC1)C(C)(OC)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C29H32F9N5O
